US07781426B2
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-[1-(isopropylamino)propyl]-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one (28.5 mg, 0.0500 mmol) in dichloroethane (1 mL) was added acetaldehyde (2 mL) and NaBH(OAc)3 (excess). The reaction was stirred at room temperature for 16 hours, and then diluted with EtOAc (10 mL) and washed with water and brine (5 mL each). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification by PTLC (50% EtOAc/hexanes) afforded (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2 {1-[ethyl(isopropyl)amino]propyl}-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one. Rf=0.53 (50% EtOAc/hexanes). LCMS=599.3 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.90 (s, 1H), 7.81 (s, 2H), 7.56-7.49 (m, 3H), 5.78-5.74 (m, 1H), 5.02 (d, J=16.4 Hz, 1H), 4.74-4.71 (m, 1H), 4.07-4-04 (m, 1H), 3.90-3.87 (m, 1H), 2.89-2.85 (m, 1H), 2.62-2.52 (m, 2H), 2.00-1.96 (m, 1H), 1.79-1.72 (m, 1H), 1.26-0.69 (m, 15H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-[1-(isopropylamino)propyl]-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.0500 mmol, 28.5 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C(CC)NC(C)C)C)(F)F | C26H27F9N2O2
reactant | acetaldehyde | 2 mL | C(C)=O | C2H4O
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2 {1-[ethyl(isopropyl)amino]propyl}-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C(CC)N(C(C)C)CC)C)(F)F | C28H31F9N2O2
